US08470823B2
Step 1: 2-(3-Chlorophenyl)pyridin-3-amine (G1)
To the solution of 2-bromopyridin-3-amine in DME (0.1M) were added 2M aqueous Na2CO3 solution (2 eq.) and (3-chlorophenyl)boronic acid (1.1 eq). The mixture was degassed and placed under an argon atmosphere. PdCl2(dppf) (0.02 eq) were added and the reaction was heated at reflux overnight under argon. After cooling the reaction was diluted with EtOAc and washed with water and brine, then dried and evaporated under reduced pressure to afford the titled compound which was used as such in the next step. MS (ES+) C11H9ClN2 requires 204, 206, found: 205, 207 (M+H)+.

reactant | 2-bromopyridin-3-amine | BrC1=NC=CC=C1N | C5H5BrN2
reactant | Na2CO3 | 2M, 2 eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (3-chlorophenyl)boronic acid | 1.1 eq | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
solvent | DME | 0.1M | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.02 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3-Chlorophenyl)pyridin-3-amine | ClC=1C=C(C=CC1)C1=NC=CC=C1N | C11H9ClN2
